US07550465B2
Step 6: 3,4-Dimethyl-8-methoxy-1-propyl-imidazo[1,5-a]-pyrido[3,2-e]-pyrazine hydrochloride (Example 39)
To a solution of 13.52 g of pure 3,4-dimethyl-8-methoxy-1-propyl-imidazo-[1,5-a]-pyrido[3,2-e]-pyrazine and 100 ml of dichloromethane 2.5 equivalents of hydrochloric acid dissolved in 100 ml of water were added. The mixture was vigorously stirred. The dichloromethane layer was then separated and subsequently the water layer was extracted for 6 times with 100 ml dichloromethane. After evaporation of the dichloromethane yellowish crystals remains. (yield 85%; yellowish crystals; m.p. 171-175° C.).

reactant | 3,4-dimethyl-8-methoxy-1-propyl-imidazo-[1,5-a]-pyrido[3,2-e]-pyrazine | 13.52 g | CC1=C(C=2N=CC=3N(C2N(C1)CCC)CN(C3)OC)C | C15H22N4O
reactant | dichloromethane | 100 ml, 2.5 equivalents | ClCCl | CH2Cl2
reactant | hydrochloric acid | Cl | ClH
solvent | water | 100 ml | O | H2O
product | 3,4-Dimethyl-8-methoxy-1-propyl-imidazo[1,5-a]-pyrido[3,2-e]-pyrazine hydrochloride | yield 85% | Cl.CC1=C(C=2N=CC=3N(C2N(C1)CCC)CN(C3)OC)C | InChI=1S/C15H22N4O.ClH/c1-5-6-17-8-11(2)12(3)14-15(17)19-10-18(20-4)9-13(19)7-16-14;/h7,9H,5-6,8,10H2,1-4H3;1H
